### PR TITLE
fixes #613 (funennp naming)

### LINKED ISSUE #613: fix name
https://github.com/math-comp/analysis/blob/67e02cc63bbcee807e60b6efa8dd298e91149d41/theories/numfun.v#L93

`funennp` -> ~~`funenpo`?~~ `funeneg`

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #613

also contains minor proof simplifications

following discussion during the last [meeting](https://github.com/math-comp/analysis/wiki/2022-04-12-Meeting)

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Since it is essentially a renaming discussed in the meeting, we may consider it as good to go?

**Comment by affeldt-aist** [comment]
@ybertot ping?

File: theories/lebesgue_integral.v [hunk 1]
```diff
@@ -2372,55 +2371,54 @@ Lemma integrable_add_def f : integrable f ->
...
+move=> [Df foo]; split; first exact: emeasurable_fun_funepos.
 apply: le_lt_trans foo; apply: ge0_le_integral => //.
-- by apply/measurable_fun_comp => //; exact: emeasurable_fun_funenng.
+- by apply/measurable_fun_comp => //; exact: emeasurable_fun_funepos.
 - exact/measurable_fun_comp.
 - by move=> t Dt; rewrite -/((abse \o f) t) fune_abse gee0_abs// lee_addl.
 Qed.
 
-Lemma integrable_funennp f : integrable f -> integrable f^\-.
+Lemma integrable_funenego f : integrable f -> integrable f^\-.
```
Comment (ybertot) [inline theories/lebesgue_integral.v:2390]: I believe there is typo here: should funeneg

File: CHANGELOG_UNRELEASED.md [hunk 2]
```diff
@@ -137,6 +139,35 @@
...
+  + `lt0_funennpM` -> `lt0_funenegM`
+  + `funenngnnp` -> `funeposneg`
+  + `add_def_funennpg` -> `add_def_funeposneg`
+  + `funeD_Dnng` -> `funeD_Dpos`
+  + `funeD_nngD` -> `funeD_posD`
+- in `lebesgue_measure.v`:
+  + `emeasurable_fun_funenng` -> `emeasurable_fun_funepos`
+  + `emeasurable_fun_funennp` -> `emeasurable_fun_funeneg`
+- in `lebesgue_integral.v`:
+  + `integrable_funenng` -> `integrable_funepos`
```
Comment (ybertot) [inline CHANGELOG_UNRELEASED.md:167]: The renaming of `integrable_funennp` into `integrable_funeneg` should also be documented.

**Review by ybertot — CHANGES_REQUESTED** [review]
This looks good to me.  There are two minor problems that I think should be corrected.

**Comment by affeldt-aist** [comment]
> This looks good to me. There are two minor problems that I think should be corrected.

Indeed. Thank you!
